US05155268
4-[(Methylsulfonyl)amino]-γ-oxobenzenebutanoic Acid, Chart VI; Step I.
A mechanically stirred suspension of aluminum chloride (88.0 g, 0.66 moles) and 150 ml of carbon disulfide under N2 is cooled in an ice bath. Methanesulfonanilide as prepared in Preparation 1 (30.0 g, 0.175 mol) and succinic anhydride (17.5 g, 0.175 mol) are combined and added rapidly to the cooled reaction mixture. The ice bath is removed and the mixture is stirred at ambient temperature for 6 hours. The reaction mixture is then heated to 55° C. and allowed to continue for 18 hours. The reaction mixture is separated into two layers the bottom of which solidifies. The upper layer is decanted and the remaining solid layer is decomposed with ice. The resulting suspension is filtered and the solid is washed several times with methylene chloride and dissolved in a mixture of saturated sodium bicarbonate (500 ml) and water (500 ml). This solution is acidified (pH2) with HCl and the resulting precipitate is collected by filtration, redissolved in NaHCO3 and reprecipitated with HCl. The solid, 4-[(methylsulfonyl)amino]-γ-oxobenzenebutanoic acid, is collected by filtration and dried to give the title compound with mp 198°-200° C.

reactant | aluminum chloride | 0.66 moles, 88.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Methanesulfonanilide | CS(=O)(=O)NC1=CC=CC=C1 | C7H9NO2S
reactant | succinic anhydride | 0.175 mol, 17.5 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | carbon disulfide | 150 ml | C(=S)=S | CS2
product | 4-[(Methylsulfonyl)amino]-γ-oxobenzenebutanoic Acid | CS(=O)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H13NO5S
